US05866592
Ethyl-N-(N-(4-(4-hydroxy-1-piperidinoimidoyl)-2-fluorobenzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate
The same procedure as in Example 45 was performed with ethyl-N-(N-(4-cyano-2-fluorobenzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate (1.4 g, 3.1 mmol) by using 4-hydroxypiperidine (3.1 g) as an amine to yield the titled compound (440 mg, 26%).

reactant | ethyl-N-(N-(4-cyano-2-fluorobenzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate | 3.1 mmol, 1.4 g | C(C)OC(CC1CCN(CC1)C(C(C(NC(C1=C(C=C(C=C1)C#N)F)=O)CC)(C)C)=O)=O | C24H32FN3O4
reactant | 4-hydroxypiperidine | 3.1 g | OC1CCNCC1 | C5H11NO
product | Ethyl-N-(N-(4-(4-hydroxy-1-piperidinoimidoyl)-2-fluorobenzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate | 440 mg, 26% | C(C)OC(CC1CCN(CC1)C(C(C(NC(C1=C(C=C(C=C1)C(=N)N1CCC(CC1)O)F)=O)CC)(C)C)=O)=O | C29H43FN4O5
